US04919765
In EP-A-0255400 there is described a process for the production of substantially pure gamma-butyrolactone from a feed mixture containing a major molar amount of gamma-butyrolactone and a minor amount of diethyl succinate. Such a feed mixture may result from hydrogenation of diethyl maleate according to the teachings of EP-A-0143634, WO-A-86/03189, and/or WO-A-86/07358. In EP-A-0255400 which was published on Feb. 3, 1988, there is described a process in which the "light ends", i.e. a mixture of tetrahydrofuran, ethanol, water, and n-butanol, are stripped off in a first distillation column which is operated under vacuum at a pressure of 0.27 bar with a head temperature of 48° C. The "light ends" which are recovered overhead are passed to a second distillation column which is operated at 1.2 bar at a head temperature of 58° C. A first tetrahydrofuran/water azeotrope is recovered overhead from this second distillation column which is passed to a third distillation column operated at 7.0 bar with a head temperature of 126° C. Essentially pure tetrahydrofuran is recovered as a bottom product from the third distillation column, whilst the overhead product therefrom is a second tetrahydrofuran/water azeotrope which is markedly richer in water than the first tetrahydrofuran/water azeotrope from the second column. This second azeotrope is recycled to the second column.

reactant | gamma-butyrolactone | C1(CCCO1)=O | C4H6O2
reactant | diethyl succinate | C(CCC(=O)OCC)(=O)OCC | C8H14O4
product | diethyl maleate | C(\C=C/C(=O)OCC)(=O)OCC | C8H12O4
